US03937704
[(1,4-Dihydro-6,7-dimethoxy-1-methyl-4-oxo-3-cinnolinyl)thio]methanol acetate
A mixture of 11 g of 6,7-dimethoxy-1-methyl-3-(methylsulfinyl)-4(1H)-cinnolinone and 100 ml of acetic anhydride was refluxed for 2 hours. The solution was chilled, and the crystalline precipitate was filtered off, washed with Skelly B, and recrystallized from CH3CN, mp. 229°-33°, yield 11 g (87%).

reactant | 6,7-dimethoxy-1-methyl-3-(methylsulfinyl)-4(1H)-cinnolinone | 11 g | COC=1C=C2C(C(=NN(C2=CC1OC)C)S(=O)C)=O | C12H14N2O4S
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | [(1,4-Dihydro-6,7-dimethoxy-1-methyl-4-oxo-3-cinnolinyl)thio]methanol acetate | C(C)(=O)OCSC1=NN(C2=CC(=C(C=C2C1=O)OC)OC)C | C14H16N2O5S
